US06472386B1
Synthesis of N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine Dihydrochloride
N,N′-Bis[[1-methoxymethyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]piperazine (71 mg) was dissolved in chloroform (3 mL), and to the solution an ethyl acetate solution (0.7 mL) of 4 M hydrochloric acid was added at room temperature, and the mixture was stirred for 3 hours. After concentrating the reaction mixture, the residue was sufficiently dried and recrystallized from methanol-diisopropyl ether to obtain the title compound.

reactant | N,N′-Bis[[1-methoxymethyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]piperazine | 71 mg | COCN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)COC | C34H46N6O8
reactant | ethyl acetate | 0.7 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine Dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC(=NN1)CN1CCN(CC1)CC1=NNC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C30H38N6O6.2ClH/c1-37-25-11-19(12-26(38-2)29(25)41-5)23-15-21(31-33-23)17-35-7-9-36(10-8-35)18-22-16-24(34-32-22)20-13-27(39-3)30(42-6)28(14-20)40-4;;/h11-16H,7-10,17-18H2,1-6H3,(H,31,33)(H,32,34);2*1H
